US04093610
In the next step of the process, N,S-ditrityl-cysteine is converted to its corresponding activated ester, preferably the 1-benzotriazolyl ester, by reacting N,S-ditrityl-cysteine with 1.0 to 1.3 molar equivalents of 1-hydroxybenzotriazole and dicyclohexylcarbodiimide in an inert organic solvent, i.e. dimethylformamide, at -10° to 10° C for 1 to 3 hours and at 20° to 30° C for an additional hour. The latter mixture containing N,S-ditrityl-cysteine 1-benzotriazolyl ester is cooled to -10° to 5° C and a solution of an equimolar amount of H--Pro--Lys(Boc)--Gly--NH2 and a sufficient amount of an organic acceptor, preferably N-ethylmorpholine, in an inert organic solvent, i.e. dimethylformamide, is added. The mixture is stirred at 20° to 30° C for 20 to 30 hours to obtain N,S-ditrityl-cysteinyl-prolyl-)Nε -t-butoxycarbonyl)lysyl-glycinamide (Trt--Cys(Trt)--Pro--Lys(Boc)--Gly--NH2), tetrapeptide fragment 9-12.

reactant | N,S-ditrityl-cysteine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C41H35NO2S
reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N,S-ditrityl-cysteine 1-benzotriazolyl ester | N1(N=NC2=C1C=CC=C2)OC([C@@H](NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CSC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C47H38N4O2S
reactant | N-ethylmorpholine | C(C)N1CCOCC1 | C6H13NO
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | lysyl-glycinamide | N[C@@H](CCCCN)C(=O)NCC(=O)N | C8H18N4O2
